US08304407B2
To a solution of triethylamine (76 mg, 0.750 mmol), PyBOP (143 mg, 0.275 mmol) and (1E,4E)-2-(tert-butoxycarbonyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylic acid (105 mg, 0.250 mmol) in DMF (4 mL) was added ethylamine hydrochloride (41 mg, 0.500 mmol). After stirring for 14 hours the mixture was partitioned between EtOAc (50 mL) and brine (100 mL). The phases were separated and the organic layer was washed with water (3×100 mL). The combined organics were dried and concentrated. The crude residue was taken up in CH2Cl2/TFA (˜1:1, 50 mL) and stirred at room temperature for 2 hours. The volatiles were removed under vacuum and the residue was partitioned between EtOAc and 10% Na2CO3 (1:1, 100 mL). The phases were separated and the aqueous was extracted with EtOAc (2×50 mL). The combined organics were dried and concentrated. The concentrate was purified via preparative TLC (2, 0.5 mm plates eluting with 10% MeOH/CH2Cl2 with 4-6 drops of NH4OH) to provide (1E,4E)-2-amino-N-ethyl-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxamide (6.5 mg, 8%). 1H NMR (CDCl3) δ 1.26 (t, 2H), 2.94 (s, 2H), 3.41-3.48 (m, 2H), 5.15 (br s, 1H), 6.08 (br s, 1H), 7.16 (s, 1H), 7.22 (d, 1H), 7.42 (d, 1H), 7.47 (s, 1H).

reactant | triethylamine | 0.750 mmol, 76 mg | C(C)N(CC)CC | C6H15N
reactant | PyBOP | 0.275 mmol, 143 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | (1E,4E)-2-(tert-butoxycarbonyl)-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxylic acid | 0.250 mmol, 105 mg | C(C)(C)(C)OC(=O)/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C(C(F)(F)F)(F)F)\C(=O)O | C18H16F5NO4
reactant | ethylamine hydrochloride | 0.500 mmol, 41 mg | Cl.C(C)N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (1E,4E)-2-amino-N-ethyl-8-(perfluoroethyl)-3H-benzo[b]azepine-4-carboxamide | 6.5 mg, 8% | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)C(C(F)(F)F)(F)F)\C(=O)NCC | C15H14F5N3O
